US08420823B2
(Step 1) Production of 3-{[3-(ethoxycarbonyl)piperidin-1-yl]sulfonyl}benzoic acid
The intended compound (7.12 g, 92%) was produced as a colorless solid according to the method of Reference Example 1 but using 3-(chlorosulfonyl)benzoic acid (5.00 g) and ethyl piperidine-3-carboxylate (7.04 mL) as the starting materials.

reactant | 3-(chlorosulfonyl)benzoic acid | 5.00 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
reactant | ethyl piperidine-3-carboxylate | 7.04 mL | N1CC(CCC1)C(=O)OCC | C8H15NO2
product | 3-{[3-(ethoxycarbonyl)piperidin-1-yl]sulfonyl}benzoic acid | C(C)OC(=O)C1CN(CCC1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C15H19NO6S
